US04851526
N-Methyl-3,4,5-trimethoxybenzeneacetamide
In a manner similar to Preparation 16, react 3,4,5-trimethoxybenzeneacetyl chloride with methylamine to obtain the title compound.

reactant | 3,4,5-trimethoxybenzeneacetyl chloride | COC=1C=C(C=C(C1OC)OC)CC(=O)Cl | C11H13ClO4
reactant | methylamine | CN | CH5N
product | N-Methyl-3,4,5-trimethoxybenzeneacetamide | CNC(CC1=CC(=C(C(=C1)OC)OC)OC)=O | C12H17NO4
